Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right lower quadrant pain
 
Major Surgical or Invasive Procedure:
IV antibiotics

 
History of Present Illness:
___ yo G0 transferred from ___ ED with RLQ and 17 cm 
right adnexal mass. RLQ pain suddenly developed ___ morning. 
Since then the pain has been constant. She was initially able to 
carry on with her usual activities, but it has become 
progressively worse since then. Yesterday she began to feel 
dizzy
and lightheaded and by ___ afternoon she was no longer 
able to ambulate and carry on with daily activities and as a 
result presented to ___ ED. While there a transabdominal 
ultrasound (TAUS) revealed a "uterus measuring 6 x 3.4 x 4.2 cm. 
The endometrial echocomplex measured 6 mm. A distinct right 
ovary
not delineated. Tubular cystic areas in the right adnexa noted, 
one measuring 10.9 x 11.4 x 12.9 cm and the other measuring 6.5 
x 4.7 x 7.6 cm. There is some flow in the septation between 
these cysts. Left ovary measures 6 x 1.7 x 2.1 cm and 
demonstrates no definite abnormality. No free fluid." She 
subsequently had a
pelvic/abdominal CT that showed "mild to moderate right-sided 
hydronephrosis with mild to moderate right hydroureter. A 
transition is in the pelvis at the site of a large pelvic mass. 
No stones are seen. Left kidney ureter demonstrates normal 
caliber. The appendix is visualized and is unremarkable. The
visualized colon is unremarkable. No adenopathy is seen. No free 
fluid or free air. A large septated cystic structure is 
identified, extending from the right adnexa into the abdomen, 
measuring 16.9 x 10.0 x 13.0 cm. No uterine abnormality is seen. 
Left ovary is not well delineated. No free fluid is seen." At 
the OSH she was febrile to a tmax of 100.7 and tachycardic to 
133. While at the OSH she received one dose of 2 g IV 
ceftriaxone given concern for pyelonephritis. She was then 
transferred to ___ ED for further management. 
 
Her pain was ___. She reported resolution of pain at the OSH 
after receiving 4 mg IV morphine. Denies n/v. Last ate ___ 
morning. Reported dysuria and hematuria since ___. Denied 
fevers. Reported palpitations. Last bowel movement was 
yesterday. She also developed light vaginal bleeding  which is 
abnormal for her given she is in the middle of her cycle and her 
bleeding is usually very regular.  

 
Past Medical History:
OB: G0, virginal 

GYN: 
- LMP: ___, menses once a month, last 7 days, denies
dysmenorrhea, heavy menses 
- Sexually active: virginal, denies any form of sexual activity
- STIs: denies 
- Contraception: denies  
- Pap: ? ___ years ago 
- h/o endometriosis, fibroids, cysts: denies 

PMH: denies 

PSH: denies 
 
Social History:
___
Family History:
___: 
- Paternal aunt cervical cancer
- ___ great grandmother with cervical cancer 
- Denies breast, ovarian and colon cancer 
 
Physical Exam:
TMax 100.2 TCurr 98.3PO BP 103 / 65 HR 100 RR  18 SpO2 99 ra 
General: NAD, comfortable
CV: RRR
Lungs: CTAB
Abdomen: softly distended, +TTP and fullness RLQ without rebound
or guarding, +CVAT slightly improved from yesterday
Extremities: no edema, no TTP, pneumoboots in place bilaterally 
 
Pertinent Results:
___ 07:25AM BLOOD WBC-9.2# RBC-3.97 Hgb-9.8* Hct-32.1* 
MCV-81* MCH-24.7* MCHC-30.5* RDW-14.3 RDWSD-42.3 Plt ___
___ 07:25AM BLOOD Neuts-70.8 Lymphs-16.0* Monos-11.0 
Eos-1.7 Baso-0.1 Im ___ AbsNeut-6.47*# AbsLymp-1.46 
AbsMono-1.01* AbsEos-0.16 AbsBaso-0.01
___ 07:25AM BLOOD Plt ___
___ 07:25AM BLOOD Glucose-87 UreaN-11 Creat-0.9 Na-140 
K-3.9 Cl-106 HCO3-23 AnGap-11
___ 07:25AM BLOOD Calcium-8.9 Phos-3.8 Mg-2.0
___ 07:25AM BLOOD CEA-0.2 CA125-126*
___ 07:25AM BLOOD Estradl-56
___ 05:34AM BLOOD Lactate-0.9

Pelvic US ___:
IMPRESSION:   
1. Large right adnexal cyst measuring at least 14.7 cm a 
sonographic 
appearance most consistent with endometrioma.  However, in the 
setting of 
fever leukocytosis, tubo-ovarian abscess cannot be excluded 
possibility. 
2. A heterogeneously echogenic 6.4 x 2.1 cm structure abutting 
the large right adnexal cyst may represent the right ovary.  
Given size and grayscale appearance, right ovarian torsion 
cannot be excluded. 
3. Fibroid uterus with normal left ovary. 

Chest Xray ___:
FINDINGS:  
Heart size is normal.  The mediastinal and hilar contours are 
normal. The 
pulmonary vasculature is normal. Lungs are clear.  No pleural 
effusion or 
pneumothorax is seen. There are no acute osseous abnormalities. 

MRI ___:
IMPRESSION:    
1.  21.2 cm right hematosalpinx.  No enhancing components 
suspicious for 
malignancy. 
2.  Moderate right hydroureteronephrosis extending to the point 
where the 
right ureter crosses the iliac vessels, with delayed nephrogram 
likely related to mass effect from the right hematosalpinx. 
3.  Endometriosis and endometriomas, largest measuring 3.8 cm, 
adjacent to the right ovary.  Findings equivocal for deep pelvic 
endometriosis. 
4.  Fibroid uterus. 

 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
for pain management and evaluation eight pyelonephritis and 
hydronephrosis concerning for obstruction
likely from newly diagnosed 17 cm right adnexal mass consistent 
with large endometrioma. 

Regarding her pyelonephritis, she was febrile to 100.9 on 
arrival and was continued on IV ceftriaxone. Her pain was 
controlled with IV dilaudid and Tylenol. Urology was consulted, 
but percutaneous nephrostomy tube(s) were not indicated at that 
time.

At time of admission, based on ultrasound findings, there was 
concern that the mass could represent a malignancy, and Gyn 
Oncology was consulted. However, final MRI was more consistent 
with a large hematosalpinx and endometriosis. Thus she was not 
seen by the Oncology team. 

By hospital day 1, she was afebrile, tolerating a regular diet, 
ambulating, voiding, and her pain was well controlled on oral 
medications. She was discharged home with follow up with the 
Minimally Invasive GTN team. 
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*40 Tablet Refills:*0 
2.  Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice daily Disp #*24 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pyelonephritis
right hydronephrosis
endometriosis with hydrosalpinx

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your follow-up.
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___